US04623649
Under argon, 720 mg (2 mmol) of 6-iodo-4-methyl-β-carboline-3-carboxylic acid ethyl ester is heated in a pressure vessel with 202 mg (2.4 mmol) of sodium bicarbonate, 75 mg (0.42 mmol) of palladium dichloride, and 705 mg (8 mmol) of butenediol in 10 ml of N-methylpyrrolidone for 2 hours to 150° C. After filtration and concentration, the mixture is distributed in ethyl acetate/water. The aqueous phase is extracted twice with ethyl acetate, the combined organic phases are dried, filtered, and concentrated. The residue is chromatographed over silica gel with toluene:ethanol=80:40 as the eluent. Recrystallization of the corresponding fractions from ethyl acetate/diisopropyl ether yields 185 mg (26% of theory) of 6-(2-hydroxytetrahydrofuran-4-yl)-4-methyl-β-carboline-3-carboxylic acid ethyl ester, mp 177°-180° C.

reactant | 6-iodo-4-methyl-β-carboline-3-carboxylic acid ethyl ester | 2 mmol, 720 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1C)I | C15H13IN2O2
reactant | sodium bicarbonate | 2.4 mmol, 202 mg | C([O-])(O)=O.[Na+]
reactant | butenediol | 8 mmol, 705 mg | C(=CCC)(O)O | C4H8O2
solvent | N-methylpyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
catalyst | palladium dichloride | 0.42 mmol, 75 mg | [Pd](Cl)Cl
product | 6-(2-hydroxytetrahydrofuran-4-yl)-4-methyl-β-carboline-3-carboxylic acid ethyl ester | 185 mg, 26% | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1C)C1CC(OC1)O | C19H20N2O4
